Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Fever, n/v
 
Major Surgical or Invasive Procedure:
Bedside debridement of R plantar ulcer ___
 
History of Present Illness:
___ with uncontrolled DM2 on insulin, CKD, presents with 
worsening diabetic foot ulcer pain, swelling, with fever and 
tachycardia.  

He was seen by his primary care PA today for routine followup. 
He was tachycardic there, but declined ECG as he had to go to 
work. His foot ulcer was not examined. He had routine labs 
drawn. He admits to one week of worsening foot ulcer pain, 
tenderness, and swelling without clear inciting factors. He is 
able to bear weight and walk on it. He presented to ED tonight 
because of nausea, vomiting, and low grade fever, all of which 
developed hours prior. He denies any abdominal pain or diarrhea. 
His FSBS have been elevated, 190 this morning.  

Recent labs from ___ at ___ show HgA1c 14.7%, Na 132, K 
4.4, Cl 97, CO2 25, BUN 33, Cr 2.0 (eGFR 36), Glu 396. He is 
followed by ___ Podiatry for his chronic diabetic foot ulcer. 
Of note, he was admitted from ___ to ___ for sepsis due 
to diabetic foot ulcer and bacteremia requiring OPAT ertapenem 
for 6 weeks.  

In the ED, initial vitals were T100.3 (Tm101.7) HR140 BP139/70 
RR20 95%RA. ECG with sinus tachycardia. Labs notable for WBC 
11.9 (92% PMN), H/H 10.5/30.3 (baseline), Plt 262. Chem-7 with 
Na 127, K 5.3, Cl 91, CO2 21, BUN 47, Cr 2.7. Glu 314, AG 15. 
LFTs normal, lipase 171 (ULN 60). VBG 7.49, pCO2 27. Lactate 
2.4. UA with few bacteria, 1 WBC, 1000 glucose, neg leuk, neg 
nitrite. He was given 2L NS, cefepime 2g, ondansetron, and 
acetaminophen prior to his transfer.  

On the floor, patient has no acute complaints.  

 
Past Medical History:
- DM2 on insulin, HbA1c 14.7%, uncontrolled, with diabetic 
neuropathy  
- CKD stage 3  
- Right diabetic foot ulcer with history of sepsis ___  
- Anemia  
- Hypertension  
- Hypercholesterolemia  
- s/p Appendectomy  

 
Social History:
___
Family History:
Mother with colon cancer and hyperlipidemia. Father with type 2 
DM.
 
Physical Exam:
Admission PE:
VS: T98.8 BP107/88 HR93 RR19 100RA  
GENERAL: Pleasant, appearing stated age, no acute distress  
HEENT: MMM, OP clear, no thrush  
HEART: RRR, normal S1/S2, no murmurs, gallops, or rubs  
LUNGS: Clear, no wheezes, rales, rhonchi  
ABD: nondistended, +BS, nontender, no rebound/guarding  
EXT: trace ankle edema bilaterally, 2+ ___ pulses, 1+ DP pulses  
NEURO: alert and oriented  
SKIN: Right forefoot plantar surface with 1cm irregular open 
ulcer with pus expressible, ulcerated pink surface with white 
border  
.
Discharge PE:
VS: afebrile, 120-160s/70-90s, 80-90s, 100% RA  
FSG 143-183  
GENERAL: nontoxic, middle-aged male, in NAD  
HEART: RRR, no murmurs  
LUNGS: CTAB, breathing comfortably  
ABD: soft, NT, ND  
EXT: no significant ___ edema, 2+ DP pulses bilaterally  
NEURO: alert and oriented, grossly intact  
SKIN: dry skin all over distal R foot, plantar surface of R with 
scabbed over 1cm open ulcer 
 
Pertinent Results:
Admission Labs:
___ 11:35PM BLOOD ___-11.9* RBC-3.67* Hgb-10.5* Hct-30.3* 
MCV-83 MCH-28.7 MCHC-34.7 RDW-14.0 Plt ___
___ 11:35PM BLOOD Neuts-92.2* Lymphs-3.7* Monos-2.8 Eos-0.6 
Baso-0.7
___ 11:35PM BLOOD Glucose-314* UreaN-47* Creat-2.7* Na-127* 
K-5.3* Cl-91* HCO3-21* AnGap-20
___ 11:35PM BLOOD Albumin-3.8 Calcium-9.2 Phos-2.8 Mg-1.6
___ 11:40PM BLOOD ___ pO2-51* pCO2-27* pH-7.49* 
calTCO2-21 Base XS-0 Comment-GREEN TOP 
___ 11:40PM BLOOD Lactate-2.4*
.
>> MICRO:
- tissue R foot (debrided) ___
   SOURCE:R FOOT ULCER PLEASE SEE NOTE WITH CHANGE TO ,"RIGHT 
FOOT.". 
   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE COCCI IN 
PAIRS. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S). 
   WOUND CULTURE (Preliminary): 
   ANAEROBIC CULTURE (Preliminary): 
.
- bl cx pending
- ucx < 10K org
.
>> IMAGING:
___ R FOOT XRAY: No definite radiographic evidence of 
osteomyelitis. If there is high continued clinical concern, MRI 
can be performed. 
.
___ CXR: Low lung volumes causes crowding of the 
bronchovascular structures. Opacity adjacent to the right heart 
border likely represents crowded vessels, however, if there is 
concern for pneumonia repeat radiograph in the deep inspiration 
would be helpful.
.
>> Discharge Labs:
___ 07:25AM BLOOD WBC-8.3 RBC-3.48* Hgb-9.8* Hct-29.4* 
MCV-85 MCH-28.1 MCHC-33.2 RDW-13.7 Plt ___
___ 07:25AM BLOOD Glucose-84 UreaN-39* Creat-2.2* Na-138 
K-4.6 Cl-102 HCO3-24 AnGap-17
___ 07:25AM BLOOD Calcium-9.3 Phos-3.5 Mg-1.___ with h/o poorly controlled IDDM, CKD, chronic R diabetic 
foot ulcer c/b osteo presents with drainage from foot ulcer, 
fever and n/v.
.
>> Active issues:
# Sepsis ___ diabetic foot ulcer: Pt tachycardic with 
leukocytosis and fever on presentation. SBPs soft in 90-100s. 
Only notable source is R foot ulcer which had purulent drainage. 
Pt given 3.5L IVF initially for resuscitation. He was put on 
empiric ___. Podiatry consulted who did a bedside 
debridement and reports the ulcer did not probe to bone. Given 
sepsis and concern for underlying osteo given pt history, ID was 
consulted who recommended 72hrs of IV antibiotics and then 
reasonable to complete 2wks of oral ABX. Pt completed 72hrs of 
IV therapy on day of discharge (CTX and ___ on D3, ___ and 
___ for days ___. Pt will complete course with Levoflox on 
discharge for total of 2wks course.
.
# ___: Cr 2.9 from baseline around 1.5-1.7. Likely prerenal in 
the setting of sepsis and vomiting. No documented hypotension 
but ATN also possible. Lisinopril held. Cr was 2.2 on discharge. 
Held lisinopril until repeat lytes could be checked by PCP at 
___.
.
# IDDM: Poorly controlled, ___ HbA1c 14.7%. Complicated by 
diabetic neuropathy and foot ulcers. Continued home lantus 55u 
QAM. HSSI
.
# Hyperkalemia: Likely due to acute renal failure. No ECG 
changes.  
.
# Hyponatremia: Likely due to hypovolemia given sepsis. Improved 
with IVF resuscitation 
.
# Hypertension: Antihypertensives held and restarted as needed.
.
# Hypercholesterolemia: Stable.  Continued atorava
.
>> Transitional issues:
# Code: Full, discussed with patient  
# Contact: ___ brother ___  
# ID evaluated pt and recommended 2wk course of ABX (PO levoflox 
after 72hrs of IV antibiotics during admission) to end ___.
# Please check chemistries at PCP ___. Please adjust 
levofloxacin dosing if needed pending change in creatinine. 
Please restart lisinopril if creatinine back to baseline. 
Lisinopril held on discharge as Cr not quite back to baseline.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Amlodipine 10 mg PO DAILY 
3. Atorvastatin 40 mg PO DAILY 
4. Lisinopril 10 mg PO DAILY 
5. Glargine 55 Units Breakfast

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO DAILY 
3. Glargine 55 Units Breakfast
4. Amlodipine 10 mg PO DAILY 
5. Levofloxacin 750 mg PO Q24H 
Last day ___ 
RX *levofloxacin 750 mg 1 tablet(s) by mouth daily Disp #*11 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: sepsis, infected diabetic foot ulcer, acute 
on chronic renal disease

Secondary diagnosis: insulin-dependent diabetes
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you in the hospital. You came 
in with fevers and drainage from your right foot ulcer that 
seemed infected. You were put on antibiotics and the podiatrists 
debrided your ulcer at the bedside. You completed 72hrs of IV 
antibiotics and will need to complete a total 2wk course of oral 
antibiotics at home starting tomorrow.

Please ___ at the appointments listed below. Please see 
the attached list for updates to your home medications. Please 
note the following medication changes: 
- START Levofloxacin 750mg daily on ___ until ___
- STOP Lisinopril until you see your PCP next week and get 
repeat labs to check your kidney function

You should do wet-to-dry dressings daily to your right foot 
ulcer. A visiting nurse ___ help with this. You should also try 
to put your weight on the heel of your right foot per podiatry 
recommendations until your ___ appointment next week.
 
Followup Instructions:
___